US09315495B2
To sodium hydride (60% in oil, 240 mg, 6.0 mmol) 0° C. was added 2 mL anhydrous dimethylsulfoxide. The resulting suspension was stirred for 15 minutes at 0° C. 4-Hydroxybenzaldehyde (610 mg, 5.0 mmol) was added dropwise as a solution in 2 mL dimethylsulfoxide and the resulting mixture stirred for 30 minutes at 0° C. Trifluoroethyl iodide (1.5 mL, 15.24 mmol) was added and the reaction mixture was heated to 55° C. for 24 h. The reaction mixture was cooled to room temperature and poured into water. Organics were extracted with ether (3×50 mL), dried with magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel (20% ethyl acetate in hexanes) to give 4-(2,2,2-trifluoroethoxyl)benzaldehyde (250 mg, 24%) as an oil. Used without further characterization.

reactant | sodium hydride | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | 4-Hydroxybenzaldehyde | 5.0 mmol, 610 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Trifluoroethyl iodide | 15.24 mmol, 1.5 mL | FC(CI)(F)F | C2H2F3I
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 4-(2,2,2-trifluoroethoxyl)benzaldehyde | 250 mg, 24% | FC(COC1=CC=C(C=O)C=C1)(F)F | C9H7F3O2
